US07495007B2
Preparation of racemic (2′R,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxy-1,1-dimethyl-ethoxy)-phenyl]-2′-(2,5-difluorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
In a manner similar to the method described in Example 231, racemic (2′R,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(2,5-difluoro phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (200 mg, 0.33 mmol) was reacted with LiAlH4 (63 mg, 1.66 mmol) in THF and the crude product was purified by Prep-HPLC to give title compound as a white solid (6 mg).

reactant | racemic (2′R,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(2,5-difluoro phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.33 mmol, 200 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)OCC)=O)C1=C(C=CC(=C1)F)F)=O | C30H26Cl2F2N2O5
reactant | LiAlH4 | 1.66 mmol, 63 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | C1CCOC1 | C4H8O
product | racemic (2′R,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxy-1,1-dimethyl-ethoxy)-phenyl]-2′-(2,5-difluorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 6 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(CO)(C)C)=O)C1=C(C=CC(=C1)F)F)=O | C28H24Cl2F2N2O4
